US06951879B2
75 mg (0.18 mmol) 6-(2-Bromo-ethoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole in 2.5 ml DMA were treated with 98 μl (0.54 mmol, 3eq) 5.6 M N,N-dimethylamine in ethanol for 35 h at RT. The solution was diluted with ether and a saturated aqueous solution of NaHCO3. The inorganic phase was extracted with ether, the combined organic phases were washed with brine and dried over Na2SO4. Column chromatography on silica gel with CH2Cl2:MeOH 8:1 yielded 63 mg (92%) [2-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-ethyl]-dimethyl-amine as colorless oil, MS: 377(MH+, 1Br).

reactant | 6-(2-Bromo-ethoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | 0.18 mmol, 75 mg | BrCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C15H11Br2NOS
reactant | N,N-dimethylamine | 0.54 mmol, 5.6 M, 98 μl, 3eq | CNC | C2H7N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMA | 2.5 ml | CC(=O)N(C)C | C4H9NO
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | [2-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-ethyl]-dimethyl-amine | 63 mg, 92% | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCN(C)C | C17H17BrN2OS
